US07732477B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-3-chloro-6-nitro-1-benzothiophene-2-carboxamide
427 mg (1.66 mmol) of 3-chloro-6-nitro-1-benzothiophene-2-carboxylic acid, 300 mg (1.51 mmol) of R-3-aminoquinuclidine dihydrochloride, 687.4 mg (1.81 mmol) of HATU, 701 mg (5.43 mmol) of N,N-diisopropylethylamine and 4.0 ml of DMF are reacted according to the general procedure. 20 ml of methanol and 4 g of Dowex WX2-200 are added, and the mixture is stirred at RT for 1 h. The mixture is filtered and washed successively with water, methanol, methanol/trifluoroacetic acid 9:1 and methanol/trifluoroacetic acid 1:1. Evaporation of the filtrate gives 270 mg (49% of theory) of the title compound.

reactant | 3-chloro-6-nitro-1-benzothiophene-2-carboxylic acid | 1.66 mmol, 427 mg | ClC1=C(SC2=C1C=CC(=C2)[N+](=O)[O-])C(=O)O | C9H4ClNO4S
reactant | HATU | 1.81 mmol, 687.4 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 5.43 mmol, 701 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | DMF | 4.0 ml | CN(C)C=O | C3H7NO
solvent | methanol | 20 ml | CO | CH4O
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-3-chloro-6-nitro-1-benzothiophene-2-carboxamide | N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2Cl)C=CC(=C1)[N+](=O)[O-] | C16H16ClN3O3S
